US06875780B2
Preparation of 4-Thiocyanato-phenol (Compound TFA)
The title compound was prepared in the manner analogous to Example TAB using phenol. MS m/z 152 (M+1). Preparation of [(4-Thiocyanato-phenoxy)-acetic acid methyl ester (Compound TFB)

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | (4-Thiocyanato-phenoxy)-acetic acid methyl ester | COC(COC1=CC=C(C=C1)SC#N)=O | C10H9NO3S
product | 4-Thiocyanato-phenol | S(C#N)C1=CC=C(C=C1)O | C7H5NOS
